US07745641B2
In a similar manner to Step 2 of Example 6, 4-ethyl-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (68.0 mg, 0.168 mmol) was dissolved in acetonitrile (5.4 mL), and the solution was treated with ethanolamine (0.041 mL, 0.67 mmol), acetic acid (0.192 mL, 3.36 mmol) and sodium triacetoxyborohydride (71.0 mg, 0.336 mmol). The reaction mixture was added with 1 mol/L hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with sodium carbonate and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 4-ethyl-7-{1-(tert-butoxycarbonyl)-5-[(2-hydroxyethylamino)methyl]indol-2-yl}isoindolinone (72.0 mg, yield 95%).

reactant | 4-ethyl-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.168 mmol, 68.0 mg | C(C)C1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C24H24N2O4
reactant | ethanolamine | 0.67 mmol, 0.041 mL | C(O)CN | C2H7NO
reactant | acetic acid | 3.36 mmol, 0.192 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.336 mmol, 71.0 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | acetonitrile | 5.4 mL | C(C)#N | C2H3N
product | 4-ethyl-7-{1-(tert-butoxycarbonyl)-5-[(2-hydroxyethylamino)methyl]indol-2-yl}isoindolinone | 72.0 mg, yield 95% | C(C)C1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CNCCO)C(=O)OC(C)(C)C)=O | C26H31N3O4
